US07531532B2
4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide
4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide (110 mg) was dissolved in tetrahydrofuran (3 ml) and methanol (3 ml), and then 10% palladium carbon (53 mg) was added, followed by stirring under a hydrogen atmosphere for 16.5 hrs. The catalyst was filtered off and washed with methanol. The filtrate and washings were concentrated under reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, heptane: ethyl acetate:ethanol=95:5 to 90:10). Fractions containing the target compound were concentrated to provide a crude product of the titled compound (32.4 mg) as a yellow oil.

reactant | 4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide | 110 mg | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCN(CC2)CCN2CCC2)C=CC(=C1)[N+](=O)[O-] | C20H24FN7O4
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium carbon | 53 mg | [C].[Pd]
product | 4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 32.4 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCN(CC2)CCN2CCC2)C=C1)F | C20H26FN7O2
